US08957068B2
To a solution of compound (S)-3-(2-Chloro-pyrimidin-4-yl)-4-isopropyl-oxazolidin-2-one (1.03 g, 4.3 mmol) in DMSO (12 mL) was added methyl-prop-2-ynylamine HCl salt (450 mg, 4.3 mmol) and diisopropylethylamine (2.2 mL, 12.6 mmol). The reaction was heated to 110 C for 18 hours. The reaction mixture was diluted with EtOAc (50 mL) and washed with water (25 mL) and brine (25 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified on silica gel column chromatography (EtOAc/Heptane 0 to 75%) provided (S)-4-Isopropyl-3-[2-((S)-1-methyl-prop-2-ynylamino)-pyrimidin-4-yl]-oxazolidin-2-one (360 mg) in 31% yield. LC-MS m/z: 275.1 (M−Boc)+; RT.: 1.33 min.

reactant | (S)-3-(2-Chloro-pyrimidin-4-yl)-4-isopropyl-oxazolidin-2-one | 4.3 mmol, 1.03 g | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | methyl-prop-2-ynylamine HCl salt | 4.3 mmol, 450 mg | Cl.CNCC#C
reactant | diisopropylethylamine | 12.6 mmol, 2.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (S)-4-Isopropyl-3-[2-((S)-1-methyl-prop-2-ynylamino)-pyrimidin-4-yl]-oxazolidin-2-one | 360 mg, 31% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@H](C#C)C | C14H18N4O2
